US07560569B2
In a similar manner to Example 4, (2S,4S)-1-[[N-benzyloxycarbonyl-N-[4-(benzotriazol-1-yl)oxycarbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (50.0 mg) and morpholine (9.9 μL) were used to obtain (2S,4S)-1-[[N-benzyloxycarbonyl-N-[4-(morpholin-4-yl)carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (43.6 mg).

reactant | (2S,4S)-1-[[N-benzyloxycarbonyl-N-[4-(benzotriazol-1-yl)oxycarbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 50.0 mg | C(C1=CC=CC=C1)OC(=O)N(C12CCC(CC1)(CC2)C(=O)ON2N=NC1=C2C=CC=C1)CC(=O)N1[C@@H](C[C@@H](C1)F)C#N | C30H31FN6O5
reactant | morpholine | 9.9 μL | N1CCOCC1 | C4H9NO
product | (2S,4S)-1-[[N-benzyloxycarbonyl-N-[4-(morpholin-4-yl)carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 43.6 mg | C(C1=CC=CC=C1)OC(=O)N(C12CCC(CC1)(CC2)C(=O)N2CCOCC2)CC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C28H35FN4O5
